US04245107
438 mg. of 2-(2-nitrofuran-5-ylsulfinyl)acetic acid and 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 382 mg. of 7-[2-(2-nitrofuran-5-ylsulfinyl)acetamido]-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 2-(2-nitrofuran-5-ylsulfinyl)acetic acid | [N+](=O)([O-])C=1OC(=CC1)S(=O)CC(=O)O | C6H5NO6S
reactant | 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
product | 7-[2-(2-nitrofuran-5-ylsulfinyl)acetamido]-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | [N+](=O)([O-])C=1OC(=CC1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C17H15N5O8S4
